US04681883
Thionyl chloride (23.8 g) was added slowly to a cooled (0° C.) mixture of 3-[3-(piperidinomethyl)phenoxy]propionic acid and dimethylformamide (0.5 ml) in dichloromethane (100 ml). The resulting suspension was stirred at room temperature overnight, and solvent was removed under reduced pressure to give 3-[3-(piperidinomethyl)phenoxy]propionyl chloride hydrochloride (18.9 g) as an oil.

reactant | Thionyl chloride | 23.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[3-(piperidinomethyl)phenoxy]propionic acid | N1(CCCCC1)CC=1C=C(OCCC(=O)O)C=CC1 | C15H21NO3
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-[3-(piperidinomethyl)phenoxy]propionyl chloride hydrochloride | 18.9 g | Cl.N1(CCCCC1)CC=1C=C(OCCC(=O)Cl)C=CC1 | InChI=1S/C15H20ClNO2.ClH/c16-15(18)7-10-19-14-6-4-5-13(11-14)12-17-8-2-1-3-9-17;/h4-6,11H,1-3,7-10,12H2;1H
